US08957064B2
Step 1: [4-(2-Methylsulfanyl-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)-phenyl]-methanol
A mixture of 5-chloro-2-methylsulfanyl-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidine (310 mg, 1.12 mmol), [4-(hydroxymethyl)phenyl]boronic acid (187 mg, 1.23 mmol), 2.32 mL Na2CO3 solution (10%), 56 mg 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) and 3.6 mL DME was heated at 100° C. for 50 min under microwave irradiation. In parallel, a second reaction was performed with a 100 mg portion of 5-chloro-2-methylsulfanyl-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidine. On cooling, both mixtures were combined, diluted with water and extracted with CH2Cl2. The combined organic extract was washed with brine, dried and concentrated in vacuo to give the crude title compound which was used without further purification in the next step.

reactant | 5-chloro-2-methylsulfanyl-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidine | 1.12 mmol, 310 mg | ClC1=NC=2N(C=C1C1=CC=CC=C1)N=C(N2)SC | C12H9ClN4S
reactant | [4-(hydroxymethyl)phenyl]boronic acid | 1.23 mmol, 187 mg | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | Na2CO3 | 2.32 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DME | 3.6 mL | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) | 56 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [4-(2-Methylsulfanyl-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)-phenyl]-methanol | CSC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=C2)CO)=N1 | C19H16N4OS
